US03946004
Reaction of 2-trifluoromethylphenoxazine with 2-chloro-1-(1-pyrrolin-2-yl)pyrroline hydrochloride according to the procedure of Example 7 affords the free base, 2-TRIFLUOROMETHYL-10-[1-(1-PYRROLIN-2-YL)-2-PYRROLIN-2-YL]PHENOXAZINE, m.p. 140°-142° C., from n-hexane. Conversion of the free base affords 2-TRIFLUOROMETHYL-10-[1-(1-PYRROLIN-2-YL)-2-PYRROLIN-2-YL]PHENOXAZINE HYDROCHLORIDE HYDRATE, m.p. 222.5°-229° C. (dec.) (corr.).

reactant | 2-trifluoromethylphenoxazine | FC(C1=CC=2NC3=CC=CC=C3OC2C=C1)(F)F | C13H8F3NO
reactant | 2-chloro-1-(1-pyrrolin-2-yl)pyrroline hydrochloride | Cl.ClC=1N(CCC1)C1=NCCC1
product | 2-TRIFLUOROMETHYL-10-[1-(1-PYRROLIN-2-YL)-2-PYRROLIN-2-YL]PHENOXAZINE | FC(C1=CC=2N(C3=CC=CC=C3OC2C=C1)C=1N(CCC1)C1=NCCC1)(F)F | C21H18F3N3O
